US06359138B1
(RS)-1-[5-Methoxy-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-2-ylmethyl]-4-(4-methyl-benzyl)-piperidin-4-ol
(RS)-Toluene-4-sulfonic acid 5-methoxy-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-2-ylmethyl ester (200 mg, 0.41 mmol) and 4-(4-methylbenzyl)-piperidin-4-ol (337 mg, 1.64 mmol) were heated in mesitylene (10 ml) for 20 hr at 140° C. After cooling 4N HCl was added to pHl and the mixture extracted with EtOAc (3×25 ml), the extracts dried (Na2SO4), filtered and evaporated. Purification of the crude material over SiO2 (Merck 230-400 mesh) eluting with EtOAc-cyclohexane-Et3N (9:10:1) afforded the title compound as a yellow oil (155.9 mg, 0.3 mmol, 73%), MS: m/e=521.4 (M+H+).

reactant | (RS)-Toluene-4-sulfonic acid 5-methoxy-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-2-ylmethyl ester | 0.41 mmol, 200 mg | COC=1C=C2CC(N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)COS(=O)(=O)C1=CC=C(C=C1)C | C24H25NO6S2
reactant | 4-(4-methylbenzyl)-piperidin-4-ol | 1.64 mmol, 337 mg | CC1=CC=C(CC2(CCNCC2)O)C=C1 | C13H19NO
reactant | HCl | 4N | Cl | ClH
solvent | mesitylene | 10 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | (RS)-1-[5-Methoxy-1-(toluene-4-sulfonyl)-2,3-dihydro-1H-indol-2-ylmethyl]-4-(4-methyl-benzyl)-piperidin-4-ol | 0.3 mmol, 155.9 mg, 73% | COC=1C=C2CC(N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)CN1CCC(CC1)(O)CC1=CC=C(C=C1)C | C30H36N2O4S
